US09107415B2
Synthesis of 2-(2-chloro-6-methoxy-4-prop-1-ynyl-phenyl)-3-methoxy-5-prop-2-ynyl-cyclopent-2-en-1-one
A microwave vial was charged with 2-(4-bromo-2-chloro-6-methoxy-phenyl)-3-methoxy-5-prop-2-ynyl-cyclopent-2-en-1-one (0.147 g, 0.398 mmol), but-2-ynoic acid (0.0368 g, 0.437 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.0141 g, 0.0199 mmol) and 1,4-bis-(diphenylphosphino)butane (0.0170 g, 0.0398 mmol) was sealed and dimethyl sulfoxide (2 mL) was added via syringe followed by tetrabutylammonium fluoride (1 mol/L) in tetrahydrofuran (0.795 mL, 0.795 mmol) and then the solution was heated under microwave irradiation at 110°C. for 40 minutes. The reaction was cooled to room temperature, poured into water (20 ml) and diluted with EtOAc (10 ml). The phases were separated and the aqueous phase was extracted into ethyl acetate (2×10 ml). The combined organic extracts were washed with brine (10 ml), dried over MgSO4, filtered and evaporated to dryness under reduced pressure to give a yellow gum, 230 mg. The residue was dissolved in dichloromethane, adsorbed onto silica and purified by flash chromatography over silica using an EtOAc/isohexane gradient to give the desired compound as a yellow gum (42 mg, 32%) as a seperable mixture of atropisomers with identical spectral data. 1H NMR (400 MHz, CDCl3) δ ppm 7.09 (s, 1H), 6.82 (s, 1H), 3.77 (s, 3H), 3.64 (s, 3H), 3.11-3.09 (m, 1H), 2.74-2.51 (m, 4H), 2.05 (s, 3H), 1.99 (s, 1H).

reactant | 2-(4-bromo-2-chloro-6-methoxy-phenyl)-3-methoxy-5-prop-2-ynyl-cyclopent-2-en-1-one | 0.398 mmol, 0.147 g | BrC1=CC(=C(C(=C1)OC)C=1C(C(CC1OC)CC#C)=O)Cl | C16H14BrClO3
reactant | but-2-ynoic acid | 0.437 mmol, 0.0368 g | C(C#CC)(=O)O | C4H4O2
reactant | 1,4-bis-(diphenylphosphino)butane | 0.0398 mmol, 0.0170 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | tetrabutylammonium fluoride | 1 mol/L | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.795 mmol, 0.795 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0199 mmol, 0.0141 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 20 ml | O | H2O
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 2-(2-chloro-6-methoxy-4-prop-1-ynyl-phenyl)-3-methoxy-5-prop-2-ynyl-cyclopent-2-en-1-one | 42 mg, 32% | ClC1=C(C(=CC(=C1)C#CC)OC)C=1C(C(CC1OC)CC#C)=O | C19H17ClO3
